US08309562B2
N2-(3-Dimethylamino-propyl)-N4-(4-methoxy-phenyl)-N2,N4-dimethyl-quinazoline-2,4-diamine
The title compound was prepared from (2-chloro-quinazolin-4-yl)-(4-methoxy-phenyl)-methyl-amine (200 mg, 0.67 mmol) and N,N,N-trimethyl-1,3-propane diamine (116 mg, 1.0 mmol) by a procedure similar to Example 1 and was isolated as a brown oil (112 mg, 44%). 1H NMR (CDCl3) δ 7.5 (d, 1H), 7.4 (m, 1H), 7.15 (d, 2H), 6.9 (m, 3H), 6.6 (m, 1H), 3.81 (s, 3H), 3.78 (t, 2H), 3.5 (s, 3H), 3.48 (s, 3H), 3.3 (s, 3H), 2.4 (m, 2H), 2.2 (s, 3H), 1.8 (m, 2H); LC-MS (ESI+; 380 ([M+H]+)).

reactant | (2-chloro-quinazolin-4-yl)-(4-methoxy-phenyl)-methyl-amine | 0.67 mmol, 200 mg | ClC1=NC2=CC=CC=C2C(=N1)N(C)C1=CC=C(C=C1)OC | C16H14ClN3O
reactant | N,N,N-trimethyl-1,3-propane diamine | 1.0 mmol, 116 mg | CNCCCN(C)C | C6H16N2
product | N2-(3-Dimethylamino-propyl)-N4-(4-methoxy-phenyl)-N2,N4-dimethyl-quinazoline-2,4-diamine | CN(CCCN(C1=NC2=CC=CC=C2C(=N1)N(C)C1=CC=C(C=C1)OC)C)C | C22H29N5O
